US07528160B2
2-(5-Benzyloxy-indol-1-yl)-propionic acid ethyl ester
To a mixture of NaH (60%, 4.92 g, 0.205 mol) in DMF (60 mL) is added 5-benzoxyindole at 0˜5° C., then stirred 30 min. ethyl 2-bromopropionate is added dropwise, the mixture is allowed to warm to room temperature and heated at 70° C. overnight, cooled to room temperature, diluted with ethyl acetate, washed with water and brine, dried over sodium sulfate. Concentration and column chromatography on silica gel eluted with hexanes and ethyl acetate yields the title compound (29 g).

reactant | NaH | 0.205 mol, 4.92 g | [H-].[Na+]
reactant | 5-benzoxyindole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Benzyloxy-indol-1-yl)-propionic acid ethyl ester | 29 g | C(C)OC(C(C)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C20H21NO3
